US08222314B2
2-({[3-(Methylsulphanyl)phenyl]carbamoyl}oxy)ethyl prop-2-enoate
0.02 g of 2,6-di-tert-butyl-4-methylphenol, 0.01 g of Desmorapid Z, 11.7 g of 3-(methylthio)phenyl isocyanate were initially introduced into a 100 ml round-bottomed flask and heated to 60° C. Thereafter, 8.2 g of 2-hydroxyethyl acrylate were added dropwise and the mixture was kept farther at 60° C. until the isocyanate content had fallen below 0.1%. Cooling was then effected. The product was obtained as a light yellow liquid.

reactant | 2,6-di-tert-butyl-4-methylphenol | 0.02 g | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | Desmorapid | 0.01 g | CN(C)CCCN1CN(CN(C1)CCCN(C)C)CCCN(C)C | C18H42N6
reactant | 3-(methylthio)phenyl isocyanate | 11.7 g | CSC=1C=C(C=CC1)N=C=O | C8H7NOS
reactant | 2-hydroxyethyl acrylate | 8.2 g | C(C=C)(=O)OCCO | C5H8O3
reactant | isocyanate | [N-]=C=O
product | 2-({[3-(Methylsulphanyl)phenyl]carbamoyl}oxy)ethyl prop-2-enoate | C(C=C)(=O)OCCOC(NC1=CC(=CC=C1)SC)=O | C13H15NO4S
